US05145869
To a solution of methyl 5-(3,4-dichlorophenylsulfonyl)-4-(N-pentyl-N-phenethylcarbamoyl)pentanoate (57 mg) in ethanol (1 ml) was added a 1N sodium hydroxide solution (0.12 ml). After stirring at room temperature for 16 hours, the reaction mixture was concentrated in vacuo, acidified with a dilute hydrochloric acid, and extracted with chloroform. The organic layer was washed with water, dried over MgSO4, and evaporated at reduced pressure. The residue was purified by preparative thin-layer chromatography on silica by developing with chloroform/ethanol (10:1) to give 45 mg of 5-(3,4-dichlorophenylsulfonyl)-4-(N-pentyl-N-phenethylcarbamoyl)pentanoic acid as an oil.

reactant | methyl 5-(3,4-dichlorophenylsulfonyl)-4-(N-pentyl-N-phenethylcarbamoyl)pentanoate | 57 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)CC(CCC(=O)OC)C(N(CCC1=CC=CC=C1)CCCCC)=O | C26H33Cl2NO5S
reactant | sodium hydroxide | 1N, 0.12 ml | [OH-].[Na+]
solvent | ethanol | 1 ml | C(C)O | C2H6O
product | 5-(3,4-dichlorophenylsulfonyl)-4-(N-pentyl-N-phenethylcarbamoyl)pentanoic acid | 45 mg | ClC=1C=C(C=CC1Cl)S(=O)(=O)CC(CCC(=O)O)C(N(CCC1=CC=CC=C1)CCCCC)=O | C25H31Cl2NO5S
